US09290451B2
b) 2-{[5-Cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carbonyl]-amino}-2-ethyl-butyric acid
In analogy to the procedure described in Example 252 b), ethyl 2-(5-cyclopropyl-6-(4-fluorobenzyl)picolinamido)-2-ethylbutanoate was treated with sodium hydroxide to give the title compound as white solid. MS: 383.3 [M−H]−.

reactant | ethyl 2-(5-cyclopropyl-6-(4-fluorobenzyl)picolinamido)-2-ethylbutanoate | C1(CC1)C=1C=CC(=NC1CC1=CC=C(C=C1)F)C(=O)NC(C(=O)OCC)(CC)CC | C24H29FN2O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-{[5-Cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carbonyl]-amino}-2-ethyl-butyric acid | C1(CC1)C=1C=CC(=NC1CC1=CC=C(C=C1)F)C(=O)NC(C(=O)O)(CC)CC | C22H25FN2O3
